US04945099
5-(4-Acetyl-5-methoxy-2-allylphenoxy)pentanenitrile
A mixture of 1.365 g of 5-(4-acetyl-5-hydroxy-2-allylphenoxy)pentanenitrile, 0.966 g of potassium carbonate, and 1.42 g of methyl iodide in 50 ml of dimethylformamide was stirred together at room temperature for 5 hours. The mixture was partitioned between dilute hydrochloric acid and ethyl acetate. The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo to provide 1.2 g of the desired title product, m.p.=40°-42° C. NMR, MS.

reactant | 5-(4-acetyl-5-hydroxy-2-allylphenoxy)pentanenitrile | 1.365 g | C(C)(=O)C1=CC(=C(OCCCCC#N)C=C1O)CC=C | C16H19NO3
reactant | potassium carbonate | 0.966 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.42 g | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(4-Acetyl-5-methoxy-2-allylphenoxy)pentanenitrile | 1.2 g | C(C)(=O)C1=CC(=C(OCCCCC#N)C=C1OC)CC=C | C17H21NO3
